US08497371B2
2-(4-{[(2-trifluoromethylphenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid (12)
Pipemidic acid (48 mg, 0.159 mmol) and 2-(trifluoromethyl)phenyl isothiocyanate (20 μL, 0.132 mmol) were used. Purification on silica yielded compound 12 in Table 1, below (55 mg, 82%). 1H NMR (300 MHz, CDCl3) δ 9.32 (s, 1H), 8.69 (s, 1H), 7.74-7.64 (m, 1H), 7.63-7.51 (m, 2H), 7.43-7.33 (m, 1H), 4.47-3.90 (m, 10H), 1.50 (t, J=6.86 Hz, 3H) ppm.

reactant | Pipemidic acid | 0.159 mmol, 48 mg | CCN1C=C(C(=O)C2=C1N=C(N=C2)N3CCNCC3)C(=O)O | C14H17N5O3
reactant | 2-(trifluoromethyl)phenyl isothiocyanate | 0.132 mmol, 20 μL | FC(C1=C(C=CC=C1)N=C=S)(F)F | C8H4F3NS
product | 2-(4-{[(2-trifluoromethylphenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid | FC(C1=C(C=CC=C1)NC(=S)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC)(F)F | C22H21F3N6O3S
